US05661166
5-Hydroxy-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one (AU154) obtained in Example 4 (25.0 g, 126 mM) was treated with 3,4-dinitrobenzoic acid according to the procedures described in Example 20, and crystallized from methanol to obtain 42.1 g (85%) of 5-(3,4-dinitrobenzoyloxy)-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one (AU409) as light yellow needles. Melting point: 103° to 104° C.

reactant | 5-Hydroxy-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one | OC1C(C=C(C(CC1(C)C)=O)C)OC | C11H18O3
reactant | 3,4-dinitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4N2O6
product | 5-(3,4-dinitrobenzoyloxy)-4-methoxy-2,6,6-trimethyl-2-cyclohepten-1-one | 42.1 g, 85% | [N+](=O)([O-])C=1C=C(C(=O)OC2C(C=C(C(CC2(C)C)=O)C)OC)C=CC1[N+](=O)[O-] | C18H20N2O8
